US08110588B2
3-(2-Chloro-4-trifluoromethyl-phenyl)-5-(4-methoxy-phenyl)-3H-[1,2,3]triazol-4-ylamine (3)
To an ice-cooled and stirred mixture of 1-azido-2-chloro-4-trifluoromethyl-benzene (1.00 g, 1 eq) and commercial (4-methoxy-phenyl)-acetonitrile (0.797 g, 1.2 eq) in ethanol (10 ml) kept under nitrogen, a solution of sodium methoxide (0.366 g, 1.5 eq) in ethanol (10 ml) is added drop-wise (20 min). After the addition, the reaction mixture is allowed to reach room temperature spontaneously and stirring is then continued overnight at room temperature. The resulting reaction mixture is diluted with ethyl acetate (40 ml), washed with water (2×50 ml), dried over MgSO4 and evaporated to dryness. The yellow solid residue (1.20 g) is purified by flash chromatography using 60-120 mesh silica gel and eluting with 15% ethylacetate in hexane, to afford the title compound as a white solid (0.324 g, 30% yield). M.p. 130.0-130.7° C.

reactant | 1-azido-2-chloro-4-trifluoromethyl-benzene | 1.00 g, 1 eq | N(=[N+]=[N-])C1=C(C=C(C=C1)C(F)(F)F)Cl | C7H3ClF3N3
reactant | (4-methoxy-phenyl)-acetonitrile | 0.797 g, 1.2 eq | COC1=CC=C(C=C1)CC#N | C9H9NO
reactant | sodium methoxide | 0.366 g, 1.5 eq | C[O-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | 3-(2-Chloro-4-trifluoromethyl-phenyl)-5-(4-methoxy-phenyl)-3H-[1,2,3]triazol-4-ylamine | 0.324 g, 30% yield | ClC1=C(C=CC(=C1)C(F)(F)F)N1N=NC(=C1N)C1=CC=C(C=C1)OC | C16H12ClF3N4O
